US09120785B2
To a solution of (1S,3R)-methyl 3-(thiazole-2-carbonyl)cyclopentanecarboxylate (148 mg, 1.75 mmol) in THF (6 mL) and at −78° C. was added methylmagnesium bromide (582 mL, 1.75 mmol), the solution was stirred at −78° C. for 30 minutes. Saturated aqueous ammonium chloride was added and the mixture was allowed to warm to room temperature. The mixture was extracted with EtOAc, organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The crude residue was absorbed on silica and purified by flash chromatography to afford (1S,3R)-methyl 3-(1-hydroxy-1-(thiazol-2-yl)ethyl)cyclopentanecarboxylate. MS ESI calc'd. for C12H18NO3S [M+H]+ 256. found 256. 1H NMR (500 MHz, DMSO-d6) δ 7.67 (t, J=3.0 Hz, 1H), 7.50 (d, J=3.0 Hz, 1H), 3.58-3.57 (m, 3H), 3.52 (s, 1H), 2.75-2.62 (m, 1H), 2.43-2.35 (m, 1H), 1.97-1.91 (m, 1H), 1.78-1.51 (m, 4H), 1.46-1.44 (m, 3H), 1.25-1.19 (m, 1H).

reactant | (1S,3R)-methyl 3-(thiazole-2-carbonyl)cyclopentanecarboxylate | 1.75 mmol, 148 mg | S1C(=NC=C1)C(=O)[C@H]1C[C@H](CC1)C(=O)OC | C11H13NO3S
reactant | methylmagnesium bromide | 1.75 mmol, 582 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (1S,3R)-methyl 3-(1-hydroxy-1-(thiazol-2-yl)ethyl)cyclopentanecarboxylate | OC(C)(C=1SC=CN1)[C@H]1C[C@H](CC1)C(=O)OC | C12H17NO3S
